US04891375
B. 4-(4-(4-(4-(3-Trifluoromethylphenyl)piperazinyl)butyl)-phenyl)-2-aminothiazole
To a 125 ml round-bottomed flask equipped with condenser and N2 inlet were added 2.61 g (7.5 mmol) of 4-(4-(4-chlorobutyl)phenyl)-2-aminothiazole hydrobromide, 2.0 g (7.5 mmol) of N-(3-trifluoromethylphenyl)piperazine hydrochloride, 2.62 ml (15.0 mmol) of diisopropylethylamine, 1.59 g (15.0 mmol) of sodium carbonate, 5 mg of sodium iodide, and 50 ml of methylisobutylketone. The reaction was heated at reflux for 3.5 days, cooled, and the precipitate filtered, and the filtrate evaporated. The residue was chromatographed on silica gel using methylene chloride/ethyl acetate and ethyl acetate as eluents. The product fractions were concentrated, taken up in methylene chloride/methanol, precipitated by addition of ethyl acetate saturated with hydrochloride, evaporated, and the residue triturated with ether/ethyl acetate to afford a white solid, m.p. 174°-179° C., 0.87 g (23%).

reactant | 4-(4-(4-chlorobutyl)phenyl)-2-aminothiazole hydrobromide | 7.5 mmol, 2.61 g | Br.ClCCCCC1=CC=C(C=C1)C=1N=C(SC1)N
reactant | N-(3-trifluoromethylphenyl)piperazine hydrochloride | 7.5 mmol, 2.0 g | Cl.FC(C=1C=C(C=CC1)N1CCNCC1)(F)F
reactant | diisopropylethylamine | 15.0 mmol, 2.62 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium carbonate | 15.0 mmol, 1.59 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 5 mg | [I-].[Na+]
solvent | methylisobutylketone | 50 ml | CC(=O)CC(C)C | C6H12O
product | 4-(4-(4-(4-(3-Trifluoromethylphenyl)piperazinyl)butyl)-phenyl)-2-aminothiazole | FC(C=1C=C(C=CC1)N1CCN(CC1)CCCCC1=CC=C(C=C1)C=1N=C(SC1)N)(F)F | C24H27F3N4S
